US05200422
2-amino-N-(5-chloro-2-hydroxyphenyl)-4-nitro-anilinehydrochloride
A mixture of N-(5-chloro-2-hydroxyphenyl)-2,4-dinitroaniline (7.9 g, 25.6 mmol), ammoniumchloride (5,2 g, 98 mmol) and sodiumsulfide nonahydrate (23.5 g, 98 mmol) in methanol (350 ml; was refluxed for one hour. The reaction was filtered after cooling to room temperature and the filtrate was concentrated in vacuo. The remanecens was dissolved in ethanol, acidified with concentrated hydrochloric acid and the mixture was concentrated in vacuo. Finally the crude product was triturated with diethyl ether yielding the title compound as red/brown crystals. The product was used without further purification.

reactant | N-(5-chloro-2-hydroxyphenyl)-2,4-dinitroaniline | 25.6 mmol, 7.9 g | ClC=1C=CC(=C(C1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])O | C12H8ClN3O5
reactant | ammoniumchloride | 98 mmol, 5,2 g | [Cl-].[NH4+]
reactant | sodiumsulfide nonahydrate | 98 mmol, 23.5 g | O.O.O.O.O.O.O.O.O.[Na+].[SH-]
solvent | methanol | CO | CH4O
product | 2-amino-N-(5-chloro-2-hydroxyphenyl)-4-nitro-anilinehydrochloride | Cl.NC1=C(NC2=C(C=CC(=C2)Cl)O)C=CC(=C1)[N+](=O)[O-] | InChI=1S/C12H10ClN3O3.ClH/c13-7-1-4-12(17)11(5-7)15-10-3-2-8(16(18)19)6-9(10)14;/h1-6,15,17H,14H2;1H
